US05191092
4-(1-Methoxy-5,6,7,8-tetrahydro-2-naphthyl)-butyric acid
42 g (0.15 mol) of 3-(1-methoxy-2-naphthoyl)propionic acid [cf. W. I. Awad, F. G. Badder, A. E. Marei, J. Chem. Soc. 1954, p. 4538] are hydrogenated for 6 h at 60° C. and 30 bar of hydrogen in 800 ml of ethanol in the presence of 12 g of palladium/animal carbon (10% strength) as a catalyst. The catalyst is filtered off, the solution is evaporated and the residue is flash chromatographed on silica gel using methylene chloride/methanol 10:1 as the eluent.

reactant | 3-(1-methoxy-2-naphthoyl)propionic acid | 0.15 mol, 42 g | COC1=C(C=CC2=CC=CC=C12)C(=O)CCC(=O)O | C15H14O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | palladium | 12 g | [Pd] | Pd
product | 4-(1-Methoxy-5,6,7,8-tetrahydro-2-naphthyl)-butyric acid | COC1=C(C=CC=2CCCCC12)CCCC(=O)O | C15H20O3
